US07109186B2
Compound 749: 1-[2-(4-Benzo[1,3]dioxol-5-ylmethyl-piperazin-1-yl)-ethyl]-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide
Compound 749 was prepared from 1-(2,2-dimethoxy-ethyl)-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide and 1-benzo[1,3]dioxol-5-ylmethyl-piperazine using the method described for compound 747. The title compound was isolated as a white solid (0.0068 g, 17% yield). HRMS (M+H) calcd for C27H31N4Cl2O5: 561.16716. found: 561.1674.

reactant | 1-(2,2-dimethoxy-ethyl)-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)CC(OC)OC)C)C=CC1Cl | C17H20Cl2N2O5
reactant | 1-benzo[1,3]dioxol-5-ylmethyl-piperazine | O1COC2=C1C=CC(=C2)CN2CCNCC2 | C12H16N2O2
product | 1-[2-(4-Benzo[1,3]dioxol-5-ylmethyl-piperazin-1-yl)-ethyl]-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)CCN2CCN(CC2)CC2=CC3=C(OCO3)C=C2)C)C=CC1Cl | C27H30Cl2N4O5
